* source LAB7
R_R1         N00120 N00061  1k  
C_C1         0 N00061  1u   
V_V1         N00120 0 DC 0Vdc AC 1Vac 
V_V3         N00560 0  
+PULSE 4 -4 0 1n 1n 0.5m 1m
R_R2         N00560 N00614  1k  
C_C2         0 N00614  1u   
